US06037367
Preparation of (+/-)-Ethyl-3-(3-Cyclopentyloxy-4-methoxyphenyl)3-phenylethynylpropionate
A solution of (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionic acid (250 mg, 0.69 mmol) in EtOH (20 ml) and H2SO4 (1 drop) was refluxed for 6 hr. The solvent was evaporated, the residue taken up in Et2O, washed with aqueous Na2CO3, dried, and the solvent evaporated. The residue was crystallized from hexane, and gave the titled compound, 180 mg (67%). 1H NMR (400 MHz, CDCl3) δ 7.40 (m, 2 H), 7.28 (m, 3 H), 6.98 (m, 2 H), 6.82 (d, 1 H), 4.80 (m, 1 H), 4.32 (t, 1 H), 4.14 (q, 2 H), 3.80 (s, 3 H), 2.86 (d of d, 1 H), 2.76 (d of d, 1 H), 1.76-1.98 (m, 6 H), 1.62 (m, 2 H), 1.22 (t, 3 H).

reactant | (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionic acid | 0.69 mmol, 250 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)O)C#CC1=CC=CC=C1 | C23H24O4
reactant | EtOH | 20 ml | CCO | C2H6O
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
product | (+/-)-Ethyl-3-(3-Cyclopentyloxy-4-methoxyphenyl)3-phenylethynylpropionate | C(C)OC(CC(C#CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C25H28O4
